US06143696
1.0 g of azobisisobutyronitrile was added to a solution of 84.0 g (0.38 mol) of methyl 2,4-dichloro-3-methylbenzoate and 67.6 g (0.38 mol) of N-bromosuccinimide in 380 ml of carbon tetrachloride. The reaction mixture was refluxed for 3.5 hours and then cooled, and the precipitate which had formed was filtered off with suction. The filtrate was concentrated under reduced pressure and the resulting residue was triturated with methyl t-butyl ether. 108.0 g of methyl 3-bromomethyl-2,4-dichlorobenzoate were obtained.

reactant | methyl 2,4-dichloro-3-methylbenzoate | 0.38 mol, 84.0 g | ClC1=C(C(=O)OC)C=CC(=C1C)Cl | C9H8Cl2O2
reactant | N-bromosuccinimide | 0.38 mol, 67.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 380 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | azobisisobutyronitrile | 1.0 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | methyl 3-bromomethyl-2,4-dichlorobenzoate | 108.0 g | BrCC=1C(=C(C(=O)OC)C=CC1Cl)Cl | C9H7BrCl2O2
